US04680402
[2-(1-piperidinyl)-3-nitrophenyl]-(4-chlorophenyl)-methanone
Proceeding as in example 2, with 0.035 mole (10.4 g) of 2,4'-dichloro-5-nitro-benzophenone and 0.07 mole (6 g) of piperidine and 0.035 mole (5 g) of calcium carbonate mixed in ethanol, 11 g (Yield: 97%) of the expected product are obtained after recrystallization in ethanol. M.P.=141° C.

reactant | 2,4'-dichloro-5-nitro-benzophenone | 0.035 mole, 10.4 g | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO3
reactant | piperidine | 0.07 mole, 6 g | N1CCCCC1 | C5H11N
reactant | calcium carbonate | 0.035 mole, 5 g | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | C(C)O | C2H6O
product | [2-(1-piperidinyl)-3-nitrophenyl]-(4-chlorophenyl)-methanone | 11 g, Yield: 97% | N1(CCCCC1)C1=C(C=CC=C1[N+](=O)[O-])C(=O)C1=CC=C(C=C1)Cl | C18H17ClN2O3
